data/mechanism_extracts/Synthesis/10.1055_s-0043-1763695.json
{"doi": "10.1055_s-0043-1763695", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Electrochemical trans-chloroformyloxylation of unactivated cyclic and acyclic alkenes using a diaryl diselenide catalyst, Bu4NCl as chloride source, and DMF as both solvent and formyloxy source", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere", "cation_initiated"], "electrochemical_role": "Anodic oxidation of the diaryl diselenide (or PhSeCl) catalyst generates an electrophilic PhSe+ species that activates the alkene; the chloride/DMF then close the cycle to deliver trans-1,2-functionalization", "key_intermediates": [{"name": "electrophilic phenylselenenyl cation (PhSe+) generated by anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "seleniranium ion (bridged episelenonium from alkene + PhSe+)", "smiles": null, "role": "reactive"}, {"name": "beta-chloro alkyl phenyl selenide after chloride opening of seleniranium", "smiles": null, "role": "transient"}, {"name": "trans-1,2-chloro formate ester product (DMF-derived formyloxy + Cl across alkene)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the diaryl diselenide/PhSeCl catalyst to a PhSe+ electrophile, which adds to the alkene to form a seleniranium ion; trans-opening by chloride (or by DMF followed by hydrolysis to the formate) installs Cl and the formyloxy group on opposite faces, regenerating the selenium catalyst.", "rate_determining_step": null, "probe_reagents": [{"name": "water additive (5–50 equiv) screening", "smiles": "O", "purpose": "intermediate_trap", "observation": "in presence of water chlorohydrins are formed as side products; anhydrous DMF is required to obtain the trans-chloroformyloxylation product (DMF acts as O-nucleophile that is then hydrolyzed to the formate)"}, {"name": "diaryl diselenide electronic/steric variants (3a–d)", "smiles": null, "purpose": "other", "observation": "screened to probe steric and electronic effects on the selenium catalyst; PhSeCl proved superior, requiring 50 mol% loading"}], "evidence_types_used": ["intermediate_trap_other", "other"], "evidence_strength": "weak", "notes": "Mechanism is proposed by analogy to Denmark's diselenide-catalyzed cis-dichlorination (which invokes a PhSe+ seleniranium with double SN2 by Cl-). Here the electrochemical variant replaces the chemical oxidant with the anode; trans-selectivity arises from single nucleophilic ring-opening by Cl- followed by DMF capture (then hydrolytic workup to formate). With 1,1-disubstituted alkenes vinyl chlorides are obtained, and 1-phenylcyclohex-1-ene gives an allyl chloride, consistent with a cationic seleniranium/carbocation manifold rather than radical addition. No TEMPO/BHT/KIE/CV/DFT studies are reported on these pages."}
